US04957928
3.01 g (35 mmol) of acrylic acid methyl ester are added at 0°-5°, while stirring, to a solution of 6.2 g (35 mmol) of 2-(2-aminoethyl)chroman in 200 ml of methanol. Stirring is continued for a further 16 hours at 0°-5° and the mixture is then concentrated by evaporation in vacuo. 8.76 g (95.2%) of crude product are obtained and are chromatographed on 250 g of silica gel (0.040-0.063 mm) using ethyl acetate as the eluant. 5.10 g (55.4%) of N-[2-(chroman-2-yl)ethyl]-N-(2-methoxycarbonylethyl)-amine are thus obtained in the form of a yellow oil. The N-[2-(chroman-2-yl)ethyl]-N-(2-methoxycarbonylethyl)-amine hydrochloride produced therefrom using hydrochloric acid in diethyl ether crystallises from methanol/diethyl ether and melts at 152°-153°.

reactant | acrylic acid methyl ester | 35 mmol, 3.01 g | COC(C=C)=O | C4H6O2
reactant | 2-(2-aminoethyl)chroman | 35 mmol, 6.2 g | NCCC1OC2=CC=CC=C2CC1 | C11H15NO
solvent | methanol | 200 ml | CO | CH4O
product | N-[2-(chroman-2-yl)ethyl]-N-(2-methoxycarbonylethyl)-amine | 5.10 g, 55.4% | O1C(CCC2=CC=CC=C12)CCNCCC(=O)OC | C15H21NO3
